US05599587
6-Bromohexan-1-ol (8 g, 44 mmol) and potassium phthalimide (16.4 g, 88 mmol) were heated at 90° C. for two hours in dry N,N-dimethylformamide (50 ml). The mixture was cooled and partitioned between chloroform (150 ml) and water (150 ml). The organic layer washed with water (2×150 ml), dried over anhydrous magnesium sulphate, filtered, and the filtrate evaporated under reduced pressure to give a yellow liquid. The liquid was left at 4° C. for 72 hours before repartitioning between ethyl acetate (150 ml) and water (150 ml). The organic layer was washed with water (2×150 ml), dried over anhydrous magnesium sulphate, filtered, and the filtrate evaporated under reduced pressure. Diethyl ether was added and following cooling the solid was removed by filtration. The process was repeated and the liquors were evaporated to give N-(6-hydroxyhexyl)-phthalimide. 1H-NMR: (60 MHz) (CDCl3), δ 7.7 (4H,s), 3.6 (5H,m) and 1.4 (8H,m) ppm

reactant | 6-Bromohexan-1-ol | 44 mmol, 8 g | BrCCCCCCO | C6H13BrO
reactant | potassium phthalimide | 88 mmol, 16.4 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 150 ml | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-(6-hydroxyhexyl)-phthalimide | OCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C14H17NO3
